US08623889B2
Step 1: 6-chloro-2-(2-chlorophenyl)-1,7-naphthyridin-4(1H)-one
5-(tert-Butoxycarbonylamino)-2-chloroisonicotinic acid (502 mg, 1.84 mmol) was suspended in polyphosphoric acid (9.5 g, 102 mmol) at ambient temperature and stirred for 10 mins causing a bright yellow coloration and visible evolution of gas. 2′-Chloroacetophenone (570 mg, 3.69 mmol) was added and the mixture heated to 150° C. for 2.5 h. The mixture was diluted with cold water (50 mL), and then cooled in ice and treated with solid sodium hydroxide (6.0 g, 150 mmol) to pH ˜7. The mixture was filtered and the recovered oily solids washed with water, dissolved in methanol and reconcentrated in vacuo. The residue was purified by flash chromatography (silica, ISCO, 0.5-20% methanol in DCM) to afford the title compound as a cream solid (29.2 mg, 5.5%). 1H NMR (400 MHz, MeOD) δ 8.87 (s, 1H), 8.12 (s, 1H), 7.64-7.58 (m, 2H), 7.58-7.46 (m, 2H), 6.47 (s, 1H); NH absent. LCMS: M+H+=291 & 293.

reactant | 5-(tert-Butoxycarbonylamino)-2-chloroisonicotinic acid | 1.84 mmol, 502 mg | C(C)(C)(C)OC(=O)NC1=CN=C(C=C1C(=O)O)Cl | C11H13ClN2O4
reactant | 2′-Chloroacetophenone | 3.69 mmol, 570 mg | ClC1=C(C=CC=C1)C(C)=O | C8H7ClO
reactant | sodium hydroxide | 150 mmol, 6.0 g | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | 6-chloro-2-(2-chlorophenyl)-1,7-naphthyridin-4(1H)-one | 29.2 mg, 5.5% | ClC=1C=C2C(C=C(NC2=CN1)C1=C(C=CC=C1)Cl)=O | C14H8Cl2N2O
